US07109219B2
2-Amino-4-chloro-5-iodopyridine
N,N-Dimethylformamide (47 ml) and N-iodosuccinimide (10.7 g, 47.6 mmol) were added to 2-amino-4-chloropyridine (4.72 g, 36.7 mmol); and the reaction mixture was stirred overnight. An aqueous solution of sodium thiosulfate and ethyl acetate were added thereto; the organic layer was separated, concentrated, and dried over anhydrous sodium sulfate. This was concentrated under reduced pressure; a solvent mixture (ether: hexane=1:1) was added to the residue; and the solid was filtered off to yield the title compound (7.0 g, 27.5 mmol).

reactant | N,N-Dimethylformamide | 47 ml | CN(C=O)C | C3H7NO
reactant | N-iodosuccinimide | 47.6 mmol, 10.7 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-amino-4-chloropyridine | 36.7 mmol, 4.72 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-chloro-5-iodopyridine | 27.5 mmol, 7.0 g | NC1=NC=C(C(=C1)Cl)I | C5H4ClIN2
